US07468415B2
Preparation of 2-(2-Methoxy-4-vinyl-phenoxymethyl)-oxirane
Into a 100 mL 3 neck flask was added 10 g trans-3-methoxy-4-hydroxycinnamic acid (ferulic acid; Aldrich), 10 mg MEHQ and 29 mL DMAc. To the resulting solution was added 0.257 g KOAc and the mixture heated to 120° C. The reaction was monitored using the HPLC method described in General Methods. The reaction was complete in 135 min. The flask was removed from the oil bath and allowed to cool to 40° C. To reaction mixture was added 2.89 g (0.0515 M) powdered potassium hydroxide followed by rapid addition of 33.35 g (0.36 M) of epichlorohydrin. The reaction mixture was heated to 90° C. for 1 hr 15 min, at which point all of the intermediate 3-Methoxy-4-hydroxystyrene was consumed (determined by HPLC analysis) and converted to desired Product A: 2-(2-Methoxy-4-vinyl-phenoxymethyl)-oxirane.

reactant | trans-3-methoxy-4-hydroxycinnamic acid | 10 g | COC=1C=C(/C=C/C(=O)O)C=CC1O | C10H10O4
reactant | MEHQ | 10 mg | COC1=CC=C(C=C1)O | C7H8O2
reactant | KOAc | 0.257 g | CC(=O)[O-].[K+]
reactant | potassium hydroxide | [OH-].[K+]
reactant | epichlorohydrin | 0.36 M, 33.35 g | C(Cl)C1CO1 | C3H5ClO
reactant | 3-Methoxy-4-hydroxystyrene | COC=1C=C(C=C)C=CC1O | C9H10O2
solvent | DMAc | 29 mL | CC(=O)N(C)C | C4H9NO
product | 2-(2-Methoxy-4-vinyl-phenoxymethyl)-oxirane | COC1=C(OCC2OC2)C=CC(=C1)C=C | C12H14O3
